data/oMe_Silver.jsonl
{"reaction_id": "NR-308_1-C","level": "medium","name": "Tollens Oxidation","reactants_smiles": ["O=CC","O","[Ag+](N)N"],"products_smiles": ["O=C(O)(C)","[Ag]"],"conditions": "Aqueous Ammonia","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O([Ag](N)(N))C([OH2+])C","step_weight": 0,"rationale": "The carbonyl carbon of the aldehyde is electrophilic due to the polar C=O bond, allowing nucleophilic attack by the oxygen ligand of the diamminesilver complex under basic aqueous conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O([Ag](N)(N))C(O([Ag](N)(N)))C","step_weight": 0,"rationale": "Proton transfer stabilizes the addition intermediate by deprotonating the oxonium species, favored in basic ammonia solution, yielding a more stable alkoxide coordinated to silver."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[O]C(O([Ag](N)(N)))C","step_weight": 0,"rationale": "Homolytic cleavage of the Ag–O bond occurs as silver is reduced, facilitated by the high reduction potential of Ag+ and the stability of the resulting oxygen-centered radical intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O[C](O([Ag](N)(N)))C","step_weight": 0,"rationale": "A 1,2-shift rearranges the radical center to the carbon, driven by the formation of a more stable carbon-centered intermediate and relief of electron deficiency at oxygen."},{"step": 5,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "O=C(O)C","step_weight": 0,"rationale": "Final homolytic cleavage of the C–O bond to silver releases the oxidized carboxylate product, favored by the stability of the carboxylate anion in aqueous ammonia and precipitation of metallic silver."}],"description": "In Tollens oxidation, the aldehyde undergoes nucleophilic addition by the diamminesilver(I) complex in aqueous ammonia, followed by proton transfers and oxidative steps that convert it into a carboxylate, with concurrent reduction of silver ions to metallic silver."}
